US07947851B2
5-{[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]methyl}-2-hydroxybenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methyl-amino)glucitol) salt
To a solution of 5-{[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]methyl}-2-hydroxybenzoic acid (253 mg, 0.49 mmol) in MeOH (5 mL) was added a solution of N-methyl-D-glucamine (97 mg, 0.49 mmol) in water (2 mL). Water (20 mL) was added and the resulting solution was lyophilized to give 306 mg of the title compound as a white powder. HPLC, Rt: 5.75 min (purity: 99.8%). LC/MS, M+(ESI): 512.0, M−(ESI): 509.9. 1H NMR (CD3OD) δ: 0.81 (m, 3H), 0.94 (t, J=7.4 Hz, 3H), 1.07 (m, 3H), 1.37 (m, 5H), 1.58-1.71 (m, 4H), 2.63 (t, J=7.7 Hz, 2H), 2.69 (s, 3H), 3.14 (d, J=6.0 Hz, 2H), 3.29 (m, 1H), 3.43 (m, 1H), 3.61-3.83 (m, 5H), 4.04 (t, J=6.4 Hz, 1H), 4.69 (s, 1H), 4.85 (s, 1H), 6.80 (m, 1H), 7.08 (m, 0.5H), 7.19 (d, J=8.3 Hz, 2H), 7.41-7.47 (m, 4.5H), 7.57 (m, 2H), 7.72 (m, 0.5H), 7.85 (m, 0.5H). Analysis calculated for C33H37NO4.C7H17NO5.1.5 H20: C, 65.46; H, 7.83; N, 3.82%. Found: C, 65.50; H, 7.69; N, 3.80%

reactant | 5-{[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]methyl}-2-hydroxybenzoic acid | 0.49 mmol, 253 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C(=O)N(CCCCCC)CC=2C=CC(=C(C(=O)O)C2)O)C=C1 | C33H37NO4
reactant | N-methyl-D-glucamine | 0.49 mmol, 97 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | Water | 20 mL | O | H2O
product | 5-{[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]methyl}-2-hydroxybenzoic acid N-methyl-D-glucamine | 306 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C(=O)N(CCCCCC)CC=2C=CC(=C(C(=O)O)C2)O)C=C1 | InChI=1S/C33H37NO4.C7H17NO5/c1-3-5-7-8-22-34(24-28-18-21-31(35)30(23-28)33(37)38)32(36)29-19-16-27(17-20-29)15-14-26-12-10-25(11-13-26)9-6-4-2;1-8-2-4(10)6(12)7(13)5(11)3-9/h10-13,16-21,23,35H,3-9,22,24H2,1-2H3,(H,37,38);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
